US07838543B2
N-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-3-(4-trifluoromethyl-phenyl)-acrylamide
Prepare according to Method A, using trans-4-trifluoromethylcinnamic acid (130 mg, 0.60 mmol), HATU (229 mg, 0.602 mmol), N2-(2-dimethylamino-ethyl)-N2-methyl-benzothiazole-2,6-diamine (100 mg, 0.400 mmol), DIEA (260 μL, 1.49 mmol), and a chromatography gradient of MeOH in CH2Cl2 (8-20%) to afford the title compound (38 mg, 21%). mass spectrum (m/e): 449.0 [M+H], 447.0 [M−H]. 1H NMR (400 MHz, DMSO-d6): δ 10.50 (s, 1H), 8.31 (d, 1H, J=2.2 Hz), 7.87-7.78 (m, 4H), 7.64 (d, 1H, J=15.8 Hz), 7.52 (dd, 1H, J=8.8, 2.2 Hz), 7.44 (d, 1H, J=8.8 Hz), 7.03 (d, 1H, J=15.8 Hz), 3.97 (dd, 2H, J=6.4, 6.4 Hz), 3.39 (dd, 2H, J=6.2, 6.2 Hz), 3.13 (s, 3H), 2.85 (s, 6H).

reactant | trans-4-trifluoromethylcinnamic acid | 0.60 mmol, 130 mg | FC(C1=CC=C(/C=C/C(=O)O)C=C1)(F)F | C10H7F3O2
reactant | HATU | 0.602 mmol, 229 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N2-(2-dimethylamino-ethyl)-N2-methyl-benzothiazole-2,6-diamine | 0.400 mmol, 100 mg | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
reactant | DIEA | 1.49 mmol, 260 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-3-(4-trifluoromethyl-phenyl)-acrylamide | 38 mg, 21% | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C=CC2=CC=C(C=C2)C(F)(F)F)=O)C)C | C22H23F3N4OS
